US07435837B2
Treatment of (±)-(5-chloro-7-thien-3-yl-2,3-dihydro-1-benzofuran-2-yl)methylamine (2.45 g, 8.11 mmol) with benzyl chloroformate (2.07 g, 12.15 mmol) and diisopropylethylamine (3.43 g, 24.32 mmol) generally according to the procedure described for Intermediate 12 provided 2.6 g (81%) of (±)-benzyl(5-chloro-7-thien-3-yl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate as a white solid. mp 90-92° C.; Anal. calcd. for C21H18ClNO3S: C, 63.07; H, 4.54; N, 3.50. Found: C, 63.44; H, 4.51; N, 3.43. Chiral HPLC separation of (±)-benzyl(5-chloro-7-thien-3-yl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate (Chiralpak AD, hexane:ethanol 1:1) provided two fractions. Fraction 1 (Rt=11.538 min, (Chiralpak AD, hexane:ethanol 1:1); Fraction 2 (Rt=17.694 min, (Chiralpak AD, hexane:ethanol 1:1).

reactant | (±)-(5-chloro-7-thien-3-yl-2,3-dihydro-1-benzofuran-2-yl)methylamine | 8.11 mmol, 2.45 g | ClC=1C=C(C2=C(CC(O2)CN)C1)C1=CSC=C1 | C13H12ClNOS
reactant | benzyl chloroformate | 12.15 mmol, 2.07 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | diisopropylethylamine | 24.32 mmol, 3.43 g | C(C)(C)N(CC)C(C)C | C8H19N
product | (±)-benzyl(5-chloro-7-thien-3-yl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate | 2.6 g, 81% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=C(C=C2C2=CSC=C2)Cl)=O | C21H18ClNO3S
